US05175293
N-(4-methyl-6-cyclopropylpyrimid-2-yl)-N-phenylhydrazine;
N-(4,6-dimethylpyrimid-2-yl)-N-phenylhydrazine; N-(4-methyl-6-methoxymethylpyrimid-2-yl)-N-phenylhydrazine;

reactant | N-(4,6-dimethylpyrimid-2-yl)-N-phenylhydrazine | CC1=NC(=NC(=C1)C)N(N)C1=CC=CC=C1 | C12H14N4
reactant | N-(4-methyl-6-methoxymethylpyrimid-2-yl)-N-phenylhydrazine | CC1=NC(=NC(=C1)COC)N(N)C1=CC=CC=C1 | C13H16N4O
product | N-(4-methyl-6-cyclopropylpyrimid-2-yl)-N-phenylhydrazine | CC1=NC(=NC(=C1)C1CC1)N(N)C1=CC=CC=C1 | C14H16N4
